US06562989B2
N-(4-methylphenyl)morpholine (Table 3, Entry 5)
According to the general procedure B, 4-methylchlorobenzene (71 mg, 0.56 mmol) reacted with morpholine (46 mg, 0.53 mmol) using 1 mol % of catalyst and sodium tert-butoxide (60 mg, 1.03 mmol) at 70° C. for 27 h to give the title compound (92 mg, 98%) as a solid: 1H-NMR (300 MHz, CDCl3): δ 7.12 (d, 2H, J=8.7 Hz), 6.87 (d, 2H, J=8.7 Hz), 3.89 (t, 4H, J=4.8 Hz), 3.14 (t, 4H, J=4.8 Hz), 2.31 (s, 3H). 13C{1H}-NMR (100 MHz, CDCl3): δ 149.09, 129.64, 129.51, 115.97, 66.90, 49.86, 20.38. GC/MS(EI): m/z 177 (M+).

reactant | 4-methylchlorobenzene | 0.56 mmol, 71 mg | CC1=CC=C(C=C1)Cl | C7H7Cl
reactant | morpholine | 0.53 mmol, 46 mg | N1CCOCC1 | C4H9NO
reactant | sodium tert-butoxide | 1.03 mmol, 60 mg | CC(C)([O-])C.[Na+]
product | N-(4-methylphenyl)morpholine | 92 mg, 98% | CC1=CC=C(C=C1)N1CCOCC1 | C11H15NO
